US07390903B2
To a stirred solution of 50 mg (0.19 mmol) (2-amino-5-chloro-thiophen-3-yl)-(4-fluoro-phenyl)-methanone in 2 ml acetic acid was added 0.025 ml (0.19 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 70° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 9:1) afforded 8 mg (11%) 1-[2-chloro-4-(4-fluoro-phenyl)-6-methyl-thieno[2,3-b]pyridin-5-yl)-2,2,2-trifluoro-ethanone as an orange oil. ES-MS m/e (%): 374 (M+H+, 100).

reactant | (2-amino-5-chloro-thiophen-3-yl)-(4-fluoro-phenyl)-methanone | 0.19 mmol, 50 mg | NC=1SC(=CC1C(=O)C1=CC=C(C=C1)F)Cl | C11H7ClFNOS
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.19 mmol, 0.025 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1-[2-chloro-4-(4-fluoro-phenyl)-6-methyl-thieno[2,3-b]pyridin-5-yl)-2,2,2-trifluoro-ethanone | 8 mg, 11% | ClC1=CC=2C(=NC(=C(C2C2=CC=C(C=C2)F)C(C(F)(F)F)=O)C)S1 | C16H8ClF4NOS
